US07208493B2
6,7-bis(3,4-dihydroxyphenyl)pteridine-2,4-diol
A 5-mL reaction vial with a stirring vane and a teflon cap was charged with 3,3′,4,4′-tetrahydroxybenzil (137 mg; 0.500 mmol) and 1.00 mL of m-cresol (Acros) which gives a yellow-brown slurry warming to ca. 50° C. The suspension is treated with sulfate 5,6-diamino-2,4-dihydroxypyrimidine sulfate (120 mg; 0.500 mmol; 1.00 equiv) which is insoluble in the reaction solution at room temperature and goes into solution on heating to ca. 200° C. to give homogeneous dark solution. Heating between 200° C. and 220° C. for an additional 2 h, followed by cooling to room temperature, and precipitation by pouring into 40 mL of anhydrous diethyl ether resulted in a light yellow precipitate. The solid was centrifuged, the supernatant decanted, the solid precipitate was washed with 4×40 mL of diethyl ether and dried in a vacuum dessicator to yield a yellow solid. MS (M+H+: calcd 381; found 381).

reactant | 3,3′,4,4′-tetrahydroxybenzil | 0.500 mmol, 137 mg | OC=1C=C(C=CC1O)C(=O)C(=O)C1=CC(=C(C=C1)O)O | C14H10O6
reactant | m-cresol | 1.00 mL | C1=C(C=CC=C1O)C | C7H8O
reactant | sulfate 5,6-diamino-2,4-dihydroxypyrimidine sulfate | 0.500 mmol, 120 mg, 1.00 equiv | S(=O)(=O)(O)O.NC=1C(=NC(=NC1N)O)O.S(=O)(=O)(O)O
product | 6,7-bis(3,4-dihydroxyphenyl)pteridine-2,4-diol | OC=1C=C(C=CC1O)C=1N=C2C(=NC(=NC2=NC1C1=CC(=C(C=C1)O)O)O)O | C18H12N4O6
